US07919488B2
4-(5-(4-fluorobenzyl)-1-(azetidin-3-yl)-1H-pyrazol-3-yl)pyridine
To a flask charged with NH4CO2H (6.2 g, 98.4 mmol) was added MeOH (50 mL) and stirred to a solution, followed by addition of a solution of 4-[1-[1-(diphenylmethyl)azetidin-3-yl]-5-(4-fluorobenzyl)-1H-pyrazol-3-yl]pyridine (2.3 g, 4.85 mmol) in EtOAc (50 mL), and the mixture stirred to a homogenous solution. This was added to a second flask containing 10% Pd/C (0.84 g) in MeOH (100 mL) under N2, and the reaction mixture was heated to 57° C. under N2 for 5 hours. The mixture was cooled to room temperature and the solids removed by filtration through a GF/F filter set. The filtrate was concentrated and diluted with water (50 mL) and then saturated with NaOH. The emulsion was then extracted with CH2Cl2 (3×100 mL) followed by Et2O (4×100 mL). The combined organic layers were dried over MgSO4, filtered and concentrated. The crude residue was purified by flash chromatography (90:10:1 CH2Cl2/MeOH/NH4OH) to yield the title compound as a white solid, 0.892 g, 60%. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 8.61 (d, 2 H), 7.69 (d, 2 H), 7.06-7.14 (m, 2 H), 6.95-7.05 (m, 2 H), 6.42 (s, 1 H), 4.91-5.08 (m, 1 H), 4.29 (t, 2 H), 3.98 (s, 2 H), 3.61 (t, 2 H); m/z (APCI+) for C18H17N4F 309.2 (M+H)+.

reactant | 4-[1-[1-(diphenylmethyl)azetidin-3-yl]-5-(4-fluorobenzyl)-1H-pyrazol-3-yl]pyridine | 4.85 mmol, 2.3 g | C1(=CC=CC=C1)C(N1CC(C1)N1N=C(C=C1CC1=CC=C(C=C1)F)C1=CC=NC=C1)C1=CC=CC=C1 | C31H27FN4
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 0.84 g | [Pd] | Pd
solvent | MeOH | 50 mL | CO | CH4O
product | 4-(5-(4-fluorobenzyl)-1-(azetidin-3-yl)-1H-pyrazol-3-yl)pyridine | FC1=CC=C(CC2=CC(=NN2C2CNC2)C2=CC=NC=C2)C=C1 | C18H17FN4
